Vdd Vdd 0 V dc={Vdd} value=0

Vin in 0 V value={Vin} 

Rd Vdd out R value={Rd}
Rs net1 0 R value={Rs}

M1 out in net1 0 M gm={gm1} cgs={cgs1} cdg={cdg1}

.source Vin
.detector V_out
.end